US04226775
1-(3-Benzoylpropionyl)-L-proline
To a solution of 25.5 g. of L-proline and 37.3 g. of sodium bicarbonate in 800 ml. of water is added a slurry of 61.0 g. of 3-benzoylpropionic acid hydroxysuccinimide ester (Example 15) in 800 ml. of ethanol. The mixture is concentrated to 1/2 volume, cooled and acidified with concentrated hydrochloric acid. The mixture is extracted with dichloromethane and the extract washed with water, saturated sodium chloride and dried over magnesium sulfate. The solvent is removed under vacuum to give an orange gum which is rubbed to a solid with ether containing a little dichloromethane. This solid is recrystallized from 250 ml. of acetone by displacing with hexane. Cooling for 2 hours gives 32.6 g. of the desired product as white crystals, m.p. 95°-97° C.

reactant | L-proline | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | water | O | H2O
reactant | ethanol | C(C)O | C2H6O
reactant | ether | CCOCC | C4H10O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(3-Benzoylpropionyl)-L-proline | C(C1=CC=CC=C1)(=O)CCC(=O)N1[C@H](C(=O)O)CCC1 | C15H17NO4
